US06552068B1
Sodium iodide (168 g, 1.12 mol) was added to a solution of 1-methanesulfonyloxy-5,5,6,6,6-pentafluorohexane (101 g, 373.77 mmol) in acetone (2000 ml), followed by heating under reflux for 12 hours. Water was added to the reaction mixture, which was then extracted twice with ether. The combined organic layers were washed with 1% aqueous sodium thiosulfate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: pentane) to give 1-iodo-5,5,6,6,6-pentafluorohexane (93.6 g, Yield 83%).

reactant | Sodium iodide | 1.12 mol, 168 g | [I-].[Na+]
reactant | 1-methanesulfonyloxy-5,5,6,6,6-pentafluorohexane | 373.77 mmol, 101 g | CS(=O)(=O)OCCCCC(C(F)(F)F)(F)F | C7H11F5O3S
reactant | Water | O | H2O
solvent | acetone | 2000 ml | CC(=O)C | C3H6O
product | 1-iodo-5,5,6,6,6-pentafluorohexane | 93.6 g, Yield 83% | ICCCCC(C(F)(F)F)(F)F | C6H8F5I
